US07410981B2
2-(Methylamino)ethyl cyclohexanecarboxylate hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl (methyl)carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (20 mL) were added pyridine (0.97 mL) and 4-dimethylaminopyridine (catalytic amount), and cyclohexanecarbonyl chloride (1.60 mL) was dropwise added. After stirring at room temperature for 2 hrs., pyridine (0.65 mL) and cyclohexanecarbonyl chloride (0.58 mL) were added, and the mixture was stirred overnight at room temperature. Ethyl acetate (50 mL) was added to the reaction mixture, and the mixture was washed with water (50 mL), a 5% aqueous citric acid solution (50 mL) and saturated brine (50 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, a 4N hydrogen chloride-ethyl acetate solution (10 mL) was added to the residue. After stirring at room temperature for 2 hrs., diethyl ether (10 mL) was added, and the precipitated solid was collected by filtration. The solid was dried under reduced pressure to give the title compound (1.88 g) as a white solid.

reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclohexanecarbonyl chloride | 1.60 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | pyridine | 0.65 mL | N1=CC=CC=C1 | C5H5N
reactant | cyclohexanecarbonyl chloride | 0.58 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(Methylamino)ethyl cyclohexanecarboxylate hydrochloride | 1.88 g | Cl.C1(CCCCC1)C(=O)OCCNC | InChI=1S/C10H19NO2.ClH/c1-11-7-8-13-10(12)9-5-3-2-4-6-9;/h9,11H,2-8H2,1H3;1H
